US06043248
A solution of 3-methoxy-4-ethyl-6-(1-hydroxyethyl)-pyridine (236 mg, 1.3 mmol) in 5 mL of methylene chloride at 0° C. is treated with thionyl chloride (0.141 mL, 1.95 mmol) and stirred at room temperature for 1 h. The reaction is quenched with 12 mL of saturated sodium bicarbonate. The aqueous layer is extracted with 3×10 mL of methylene chloride. The combined organics are dried over potassium carbonate and concentrated in vacuo to provide 249 mg (96%) of 3-methoxy-4-ethyl-6-(1-chloroethyl)-pyridine.

reactant | 3-methoxy-4-ethyl-6-(1-hydroxyethyl)-pyridine | 1.3 mmol, 236 mg | COC=1C=NC(=CC1CC)C(C)O | C10H15NO2
reactant | thionyl chloride | 1.95 mmol, 0.141 mL | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-methoxy-4-ethyl-6-(1-chloroethyl)-pyridine | 249 mg, 96% | COC=1C=NC(=CC1CC)C(C)Cl | C10H14ClNO
